US04806549
A mixture of 3-butyryl-4-chloro-8-methoxyquinoline (6.0 g, 023 mol) and o-toluidine (6.0 ml, 0.056 mol) in 1,4-dioxan (100 ml) was heated under reflux with stirring for 1 hour. The mixture was evaporated and chromatographed (silica gel, 2% methanol in dichloromethane) to give 3-butyryl-4-(2-methylphenylamino)-8-methoxyquinoline as an oil which was isolated as the hydrochloride salt (2.12 g, 25.1%), m.p. 215°-217° by crystallisation from ethyl acetate and then recrystallisation from acetone.

reactant | 3-butyryl-4-chloro-8-methoxyquinoline | 6.0 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
reactant | o-toluidine | 0.056 mol, 6.0 ml | NC=1C(=CC=CC1)C | C7H9N
solvent | 1,4-dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(2-methylphenylamino)-8-methoxyquinoline | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OC | C21H22N2O2
